US08124606B2
Potassium carbonate (5.56 g, 40.3 mmol) and tert-butyl piperazine-1-carboxylate (6.92 g, 37.2 mmol) were combined, methyl 3,4-difluorobenzoate (5.33 g, 31.0 mmol) was added and the reaction mixture was stirred at 90° C. for 1 d. The mixture was triturated with ethyl acetate (3×5 mL) and the combined organic extracts were filtered. This was concentrated down to about 5-10 mL and subjected to flash column chromatography on silica gel (120 g SiO2, hexanes: ethyl acetate 1:0 to 4:1) to afford tert-butyl 4-(2-fluoro-4-(methoxycarbonyl)phenyl)piperazine-1-carboxylate (4.702 g, 13.90 mmol, 44.9% yield) as a white solid. ESI-MS: m/z 339 (M+H)+.

reactant | Potassium carbonate | 40.3 mmol, 5.56 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl piperazine-1-carboxylate | 37.2 mmol, 6.92 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | methyl 3,4-difluorobenzoate | 31.0 mmol, 5.33 g | FC=1C=C(C(=O)OC)C=CC1F | C8H6F2O2
product | tert-butyl 4-(2-fluoro-4-(methoxycarbonyl)phenyl)piperazine-1-carboxylate | 13.90 mmol, 4.702 g, 44.9% yield | FC1=C(C=CC(=C1)C(=O)OC)N1CCN(CC1)C(=O)OC(C)(C)C | C17H23FN2O4
